US04053588
a. Benzyloxycarbonyl-4-aminobutyric acid tert. butyl ester
600 ml of liquefied isobutylene and 6 ml of conc. H2SO4 were added to a solution of 172 g of benzyloxycarbonyl-4-aminobutyric acid in 600 ml of methylene chloride. The mixture was shaken for 3 days at room temperature in an autoclave, the isobutylene was distilled off, and the methylene chloride solution was washed twice with 10% sodium carbonate solution and once with water, dried over sodium sulfate and concentrated in vacuo. The residue was dissolved in ether and chromatographed over 620 g of basic Al2O3. Elution with ether followed.

reactant | isobutylene | 600 ml | CC(C)=C | C4H8
reactant | H2SO4 | 6 ml | OS(=O)(=O)O | H2O4S
reactant | benzyloxycarbonyl-4-aminobutyric acid | 172 g | C(C1=CC=CC=C1)OC(=O)C(C(=O)O)CCN | C12H15NO4
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
product | Benzyloxycarbonyl-4-aminobutyric acid tert. butyl ester | C(C)(C)(C)OC(C(CCN)C(=O)OCC1=CC=CC=C1)=O | C16H23NO4
